US07763725B2
Stage 1: 4-{[bis(3-methylbutyl)amino]methyl}-N2-(3-piperidin-1-ylpropyl)benzene-1,2-diamine
A lithium aluminium hydride solution (36 ml; 1N in THF) is added dropwise to a solution cooled down to 0° C. of N,N-bis(3-methylbutyl)-4-nitro-3-[(3-piperidin 1-ylpropyl)amino]benzamide (1.6 g). The mixture is returned to a temperature of 20° C. then heated under reflux for 6 hours and hydrolyzed with water cooled down to 0° C. followed by a 1N soda solution. After the addition of dichloromethane, the mixture is filtered on celite. After decantation of the filtrate and extractions, the combined organic phases are washed with 1N soda then with salt water, dried over Na2SO4 and concentrated under reduced pressure at 40° C. in order to produce the expected compound in the form of an oil (1.23 g, 85% yield).

reactant | lithium aluminium hydride | 1N, 36 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | N,N-bis(3-methylbutyl)-4-nitro-3-[(3-piperidin 1-ylpropyl)amino]benzamide | 1.6 g | CC(CCN(C(C1=CC(=C(C=C1)[N+](=O)[O-])NCCCN1CCCCC1)=O)CCC(C)C)C | C25H42N4O3
reactant | water | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-{[bis(3-methylbutyl)amino]methyl}-N2-(3-piperidin-1-ylpropyl)benzene-1,2-diamine | CC(CCN(CCC(C)C)CC=1C=C(C(=CC1)N)NCCCN1CCCCC1)C | C25H46N4
